US04824943
To a solution of 3,4,5,7-tetra-O-(tetrahydropyranyl)-1-deoxy-1-(dimethoxyphosphoryl)-D-gluco-2-heptulopyranose (26.6 g) in diethyl ether (300 ml) was added sodium borohydride (3.0 g). The mixture was stirred overnight at room temperature. Insolubles were filtered off and washed with diethyl ether. The filtrate and the washings were combined, washed with 10%(W/V) sodium chloride solution, and dried over anhydrous magnesium sulfate, followed by concentration under reduced pressure. The concentrate was chromatographed on a column of silica gel (1 l) with tolueneacetone (1:1). The eluate was concentrated under reduced pressure and dried under reduced pressure to give a mixture (18.8 g) of 3,4,5,7-tetra-O-(tetrahydropyranyl)-1-deoxy-1-(dimethoxyphosphoryl)-D-glycero-D-gulo-heptitol and 1,3,4,5-tetra-O-(tetrahydropyranyl)-7-deoxy-7-(dimethoxyphosphoryl-D-glycero-L-gulo-heptitol.

reactant | 3,4,5,7-tetra-O-(tetrahydropyranyl)-1-deoxy-1-(dimethoxyphosphoryl)-D-gluco-2-heptulopyranose | 26.6 g | O1C(CCCC1)O[C@H]1C(CP(=O)(OC)OC)(O)O[C@@H]([C@H]([C@@H]1OC1OCCCC1)OC1OCCCC1)COC1OCCCC1 | C29H51O13P
reactant | sodium borohydride | 3.0 g | [BH4-].[Na+]
solvent | diethyl ether | 300 ml | C(C)OCC | C4H10O
product | 3,4,5,7-tetra-O-(tetrahydropyranyl)-1-deoxy-1-(dimethoxyphosphoryl)-D-glycero-D-gulo-heptitol | 18.8 g | O1C(CCCC1)O[C@@H]([C@H](CP(=O)(OC)OC)O)[C@@H](OC1OCCCC1)[C@H](OC1OCCCC1)[C@H](O)COC1OCCCC1 | C29H53O13P
